Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
urinary tract infection
 
Major Surgical or Invasive Procedure:
IV antibiotics

 
History of Present Illness:
___ F ___ s/p RA-TLH/BSO/PLND for ___ transferred from ___ with fevers and 
chills
found to have UTI. She reports fever to 104 at home and dysuria
x2 days. She has been taking Tylenol and motrin for fever and
denies any abdominal pain. She denies CP/SOB/calf pain/N/V/back
pain.

At ___: Tm 103.___/P showed only normal post-op
changes. Labs notable for:
Na 133
Cr 1.0
Lactate 2.7
WBC 11.7
HCT 32.7
PTT 120
UA 1.03, +nitr, sm ___, ___ WBC, ___ RBC, few squam

 
Past Medical History:
GYN HISTORY:
LMP:  ___ 
CURRENT CONTRACEPTION: n/a  PREVIOUS: none
DATE OF LAST PAP SMEAR: unsure 
HISTORY of Abnormal pap smears: denies
ISSUES: postmenopausal bleeding
Never used OCPs, HRT
Denies h/o STIs or pelvic infections
h/o yeast infections

OB HISTORY: 
G7P5
- D&E, IUFD at term
- SVD x5, 2 frank breech deliveries, 3 footling breech
deliveries, in ___ 

PAST MEDICAL HISTORY:
- HTN
- T2DM
- Morbid obesity
- h/o ischemic colitis due to ?mesenteric artery infarct but no
e/o large vessel occlusive disease noted intraoperatively, s/p
partial colectomy
- Hemorroids, s/p hemorroidectomy
- Hypothyroidism
- Hypercholesterolemia
- Anemia
- Heart murmur
- Rectocele
- Stress urinary incontinence
- Anatomic narrow angle
- h/o gout
- Dry eye syndrome
- Chronic constipation
- Alopecia
- Lower back pain

PAST SURGICAL HISTORY:
- Open cholecystectomy
- laparoscopic right hemicolectomy with ileal transverse colon
anastomosis, ___, ___, op note available in ___
viewer - per op note, no e/o large vessel occlusive disease
 
Social History:
___
Family History:
Denies h/o thromboembolism, CAD, CVA, breast, ovarian, uterine,
cervical or colon cancers. Mother with DM. Father with HTN.
 
Physical Exam:
Admission Physical Exam
VS 100.3 80 24 115/62 98%RA
Gen: NAD, well appearing
CV: RRR
Pulm: CTAB
Back: no CVAT
Abd: obese, soft, +mod suprapubic TTP o/w NT, ND, incisions
healing well and c/d/I
Pelvic: NEFG, no blood in vault, healing vaginal cuff with
physiologic discharge, no palpable masses or collections through
vaginal walls, uterus and adnexa absent
Ext: +1 ___ edema b/l, NT 

Discharge Physical Exam
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Brief Hospital Course:
Ms. ___ initially presented to ___ with high fever and 
dysuria. She had an elevated lactate and urine analysis 
consistent with a UTI. She also had a CT abdomen/pelvis that 
showed only post-operative changes. She had urine cultures and 
blood cultures drawn. She was then transferred to ___. At 
___, she remained febrile and was started on IV ceftriaxone. 
Her urine and blood cultures were repeated. Her urine cultures 
from ___ returned with E. coli sensitive to ceftriaxone 
(MIC <1), levofloxacin (MIC 0.5), nitrofurantoin (MIC <16), 
bactrim (MIC <20). On ___ at 0820 she had been afebrile for 24 
hours. She was therefore transitioned to PO levofloxacin. Her 
lactate also resolved to normal levels, and her blood cultures 
returned negative. She was discharged to home in stable 
condition on PO antibiotics, with outpatient follow-up 
scheduled.  

 
Medications on Admission:
amlodipine 5mg', furosemide 20mg', lisinopril 20mg', metformin 
500mg', metoprolol ER 25mg', simvastatin 20mg', rivaroxaban 
20mg', omeprazole 20mg', Tylenol, aspirin, colace 
 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Acetaminophen ___ mg PO Q6H:PRN fever 
5. Furosemide 20 mg PO DAILY 
6. Ibuprofen 600 mg PO Q6H:PRN pain, fever 
7. Levofloxacin 250 mg PO Q24H 
Take 10 day course of antibiotics. 
RX *levofloxacin 250 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0
8. Lisinopril 20 mg PO DAILY 
9. MetFORMIN (Glucophage) 500 mg PO DAILY 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Rivaroxaban 20 mg PO DAILY 
13. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
complicated UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the GYN Oncology service with a UTI, and 
were treated with IV antibiotics. Your symptoms and labs 
improved, and you were transitioned to oral antibiotics. You 
have recovered well and the team feels you are ready for 
discharge. Please continue to take your oral antibiotics for a 
total 10 day course. 

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___